US06903118B1
3-pyridin-3-yl-N-[4-(4-{5,6,7,8-tetrahydro-naphthalin-1-yl}-piperazin-1-yl)-butyl]-acrylamide (Substance 94)
1.6 g (11.1 mmol) 3-(3-pyridyl)-acrylic acid and 6.2 ml (44.3 mmol) TEA are suspended in 80 ml absolute dichloromethane and cooled to ca. 0° C. under moisture exclusion. 2.0 g (12.1 mmol) 81% HOBT and 2.3 g (12.1 mmol) EDC are added and the mixture is stirred for 30 min under ice cooling. 4.0 g (10.1 mmol) 4-[4-(5,6,7,8-tetrahydro-naphthalin-1-yl)-piperazin-1-yl]-butylamine are added and the mixture is stirred without cooling overnight at RT. Subsequently, the batch is washed twice with 25 ml 2M sodium hydroxide solution and 25 ml water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically pre-purified over silica gel with CHCl3/CH3OH (95/5) and crystallized twice from acetonitrile (25 ml and 15 ml): Colorless crystals of MP. 108-109° C.; yield 2.7 g (64%).

reactant | 3-(3-pyridyl)-acrylic acid | 11.1 mmol, 1.6 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | HOBT | 12.1 mmol, 2.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 12.1 mmol, 2.3 g
reactant | 4-[4-(5,6,7,8-tetrahydro-naphthalin-1-yl)-piperazin-1-yl]-butylamine | 10.1 mmol, 4.0 g | C1(=CC=CC=2CCCCC12)N1CCN(CC1)CCCCN | C18H29N3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 3-pyridin-3-yl-N-[4-(4-{5,6,7,8-tetrahydro-naphthalin-1-yl}-piperazin-1-yl)-butyl]-acrylamide | N1=CC(=CC=C1)C=CC(=O)NCCCCN1CCN(CC1)C1=CC=CC=2CCCCC12 | C26H34N4O
